US08455475B2
Methyl 3-(tert-butoxycarbonylamino)-1,1-dimethyl-2,3-dihydro-1H-indene-5-carboxylate
Conc. HCl (2 ml) and water (1 ml) were added to a stirred solution of methyl 3-(hydroxyimino)-1,1-dimethyl-2,3-dihydro-1H-indene-5-carboxylate (350 mg, 1.5 mmol, 1 eq.) in ethanol (3 ml) and the reaction mixture was stirred for 15 min. Zinc powder (640 mg, 100 mmol, 67 eq.) was added portionwise and the reaction mixture was stirred until complete conversion had taken place. The mixture was filtered through a sintered funnel and the residue washed with ethanol. The filtrate was concentrated to give the crude amine (1 g; crude), which was dissolved, in dioxane (100 ml). The mixture was cooled to 5-10° C. and triethylamine (3.3 ml, 32.8 mmol) was added, followed by boc anhydride (500 mg, 2.3 mmol, 2 eq.), which was added slowly. The reaction mixture was stirred at room temperature for 12 h. The mixture was concentrated to dryness under reduced pressure and ethyl acetate (100 ml) and water (100 ml) were added. The organic part was separated, washed with water (20 ml) and brine (20 ml), and dried over sodium sulfate. The solvent was removed under reduced pressure to give the crude product which was purified by column chromatography (silica gel, 0-5% MeOH/MC) to yield the desired product as a colorless semisolid. Yield: 52% (250 mg, 0.78 mmol).

reactant | HCl | 2 ml | Cl | ClH
reactant | methyl 3-(hydroxyimino)-1,1-dimethyl-2,3-dihydro-1H-indene-5-carboxylate | 1.5 mmol, 350 mg, 1 eq. | ON=C1CC(C2=CC=C(C=C12)C(=O)OC)(C)C | C13H15NO3
reactant | triethylamine | 32.8 mmol, 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | boc anhydride | 2.3 mmol, 500 mg, 2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | Zinc | 100 mmol, 640 mg, 67 eq. | [Zn] | Zn
solvent | water | 1 ml | O | H2O
product | Methyl 3-(tert-butoxycarbonylamino)-1,1-dimethyl-2,3-dihydro-1H-indene-5-carboxylate | Yield: 52% | C(C)(C)(C)OC(=O)NC1CC(C2=CC=C(C=C12)C(=O)OC)(C)C | C18H25NO4
